US07951824B2
Step 4: 4-(3,5-Difluoro-phenyl)-6-methyl-pyridine-2-carboxylic acid (5-fluoro-4-methyl-thiazol-2-yl)-amide
The title compound, was prepared from 4-(3,5-Difluoro-phenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using 5-Fluoro-4-methyl-thiazol-2-ylamine instead of 3-Chloroaniline acid to yield the final compound as an orange solid, MS (ISP): m/e=364.2 (M+H)+.

reactant | 4-(3,5-Difluoro-phenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | 5-Fluoro-4-methyl-thiazol-2-ylamine | FC1=C(N=C(S1)N)C | C4H5FN2S
product | 4-(3,5-Difluoro-phenyl)-6-methyl-pyridine-2-carboxylic acid (5-fluoro-4-methyl-thiazol-2-yl)-amide | FC1=C(N=C(S1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C)C | C17H12F3N3OS
